US08039474B2
b) 8-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester
A stirred mixture of crude 8-chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid (4.45 g, 17.8 mmol) and cesium carbonate (2.90 g, 8.92 mmol) in ethanol (150 ml) and water (25 ml) is refluxed until a clear solution is obtained (15 min). Then the solvents are evaporated and the dried residue is dissolved in dry DMF. This solution is treated with benzylbromide (2.27 ml, 18.7 mmol) and stirred at 45° C. for 15 min. The resulting precipitate is filtered off and the filtrate is concentrated. The residue is purified by flash chromatography on silica gel (heptane/EtOAc 3:1) to deliver pure title compound as a yellowish solid (4.2 g) in 69% yield. tR (LC-5) 1.09 min; ESI-MS (positive ion): m/z 340.19 [M+H]+ (calcd 339.82 for C20H18NO2Cl). 1H-NMR (DMSO-d6): 1.90 (m, 1H); 2.19 (m, 1H); 2.86 (m, 5H); 5.13 (s, 2H); 6.91 (t, J=7.6 Hz, 1H); 7.04 (d, J=7.6 Hz, 1H); 7.32 (m, 6H); 11.0 (br s, 1H).

reactant | 8-chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 17.8 mmol, 4.45 g | ClC=1C=CC=C2C=3CC(CCC3NC12)C(=O)O | C13H12ClNO2
reactant | cesium carbonate | 8.92 mmol, 2.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzylbromide | 18.7 mmol, 2.27 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 8-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid benzyl ester | 69% yield | C(C1=CC=CC=C1)OC(=O)C1CCC=2NC3=C(C=CC=C3C2C1)Cl | C20H18ClNO2
